US06867320B2
According to the procedure described in the synthesis method of the compound 036 in Example 36 (Preparation Method 5, Step e-1), ethyl 3-(3-bromo-4-hydroxyphenyl)propionate and 1-iodobutane were reacted and treated to obtain ethyl 3-(3-bromo-4-butyloxyphenyl)propionate (400 mg). According to the procedure described in the synthesis method of Compound of Example 001 (Preparation Method 4, Step d-1) with the modifications that the reaction was carried out for 16 hours, and the purification was performed by flash column chromatography (hexane:ethyl acetate=8:1), the above product was reacted with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (360 mg), 2 M aqueous sodium carbonate (0.9 ml) and (Ph3P)4Pd (110 mg) and treated to obtain the title compound (Intermediate 66, 270 mg).

reactant | ethyl 3-(3-bromo-4-hydroxyphenyl)propionate | BrC=1C=C(C=CC1O)CCC(=O)OCC | C11H13BrO3
reactant | 1-iodobutane | ICCCC | C4H9I
product | ethyl 3-(3-bromo-4-butyloxyphenyl)propionate | 400 mg | BrC=1C=C(C=CC1OCCCC)CCC(=O)OCC | C15H21BrO3
